US05523421
1 g(6.2 mmole) of sodium salicylate and 0.9 g(15.6 mmole) of chlorokojic acid were dissolved into 70 ml of N,N-dimethylformamide. The resulting solution was heated with stirring for 2 hours in an oil bath of 110° C. After distillating solvent, the residue was dissolved in 300 ml of ethyl acetate. The ethyl acetate solution was washed with 5% chloric acid and distilled water, dried over magnesium sulfate, decolored with active charcoal and filtered. The filtrate was concentrated to give 0.85 g(58%) of 2-(2-hydroxybenzoyl) oxymethyl-5-hydroxy-4H-pyran-4-one as a solid.

reactant | sodium salicylate | 6.2 mmole, 1 g | C(C=1C(O)=CC=CC1)(=O)[O-].[Na+]
reactant | chlorokojic acid | 15.6 mmole, 0.9 g | C1=C(OC=C(C1=O)O)CCl | C6H5ClO3
reactant | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-hydroxybenzoyl) oxymethyl-5-hydroxy-4H-pyran-4-one | 0.85 g, 58% | OC1=C(C(=O)OCC=2OC=C(C(C2)=O)O)C=CC=C1 | C13H10O6
